US09126993B2
Using general procedure C, quinuclidin-3-amine (102 mg, 0.808 mmol), CDI (131 mg, 0.808 mmol) and 2-(naphthalen-2-yl)propan-2-amine (150 mg, 0.819 mmol) gave 1-(2-(naphthalen-2-yl)propan-2-yl)-3-(quinuclidin-3-yl)urea (132 mg, 49%) as a white solid. 1H NMR (400 MHz, CDCl3) δ 7.94-7.78 (m, 4H), 7.69 (dd, J=2.0, 8.7 Hz, 1H), 7.53-7.46 (m, 2H), 4.84 (s, 1H), 4.23 (d, J=8.0 Hz, 1H), 3.68-3.54 (m, 1H), 3.07 (ddd, J=2.3, 9.3, 14.1 Hz, 1H), 2.61-2.51 (m, 2H), 2.42-2.32 (m, 1H), 1.95-1.83 (m, 2H), 1.75 (s, 3H), 1.74 (s, 3H), 1.58-1.54 (m, 1H), 1.46-1.40 (m, 2H), 1.03-0.91 (m, 1H), 0.72-0.60 (m, 1H) ppm. 13C NMR (100 MHz, CDCl3) δ 157.5, 143.7, 133.4, 132.8, 129.3, 128.1, 127.8, 126.9, 126.7, 124.4, 124.0, 57.0, 55.0, 47.1, 47.1, 46.6, 30.5, 30.3, 26.0, 25.9, 20.0 ppm. Purity: >99.9% UPLCMS (210 nm); retention time 0.71 min; (M+1) 338.

reactant | quinuclidin-3-amine | 0.808 mmol, 102 mg | N12CC(C(CC1)CC2)N | C7H14N2
reactant | CDI | 0.808 mmol, 131 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2-(naphthalen-2-yl)propan-2-amine | 0.819 mmol, 150 mg | C1=C(C=CC2=CC=CC=C12)C(C)(C)N | C13H15N
product | 1-(2-(naphthalen-2-yl)propan-2-yl)-3-(quinuclidin-3-yl)urea | 132 mg, 49% | C1=C(C=CC2=CC=CC=C12)C(C)(C)NC(=O)NC1CN2CCC1CC2 | C21H27N3O
